2114-09-01 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2114-8-31**] 03:24 PM
 EKG - At [**2114-9-1**] 03:52 AM
 BLOOD CULTURED - At [**2114-9-1**] 04:02 AM
   arterial and peripheral
   -          330 AM transient shrp l chets pain, EKG with new TWI in
   V2-V4 compared with admission EKG, CE sent, partial resolution of
   changes, no further symptoms
   -          Received one dose of 10mg valium b/c of anxiety
   -          Blood cx: GPC pairs & chains in
 blood cx from [**8-31**],
   started on Vanco pending speciation
   -
   Allergies:
   Metronidazole
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-9-1**] 12:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-8-31**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-9-1**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 79 (79 - 105) bpm
   BP: 107/55(73) {107/55(73) - 143/130(137)} mmHg
   RR: 24 (16 - 28) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 153.5 kg (admission): 153.5 kg
             Total In:
                                                                  4,709 mL
                                                                    268 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    589 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    450 mL
   Urine:
                                                                    550 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,159 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 87%
   ABG: 7.36/43/78.[**Numeric Identifier 181**]/26/-1
   PaO2 / FiO2: 158
   Physical Examination
   Gen: Comfortable, speaking in full sentences
   HEENT: PERRL
   Lungs: Diffuse wheezes throughout
   Heart: s1s2 RRR
   Abd: soft, obese, nt/nd
   Ext: wd/wp, no edema
   Skin: No rashes
   Labs / Radiology
   303 K/uL
   13.2 g/dL
   189 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   10 mg/dL
   97 mEq/L
   135 mEq/L
   41.0 %
   21.3 K/uL
        [image002.jpg]
                             [**2114-8-31**]  10:31 AM
                             [**2114-8-31**]  12:30 PM
                             [**2114-8-31**]  12:42 PM
                             [**2114-8-31**]  03:50 PM
                             [**2114-8-31**]  06:38 PM
                             [**2114-8-31**]  10:08 PM
                             [**2114-9-1**]  03:27 AM
   WBC
   21.3
   Hct
   41.0
   Plt
   303
   Cr
   0.8
   0.7
   TropT
   <0.01
   TCO2
   28
   29
   28
   25
   25
   Glucose
   205
   189
   Other labs: CK / CKMB / Troponin-T:75//<0.01, Differential-Neuts:89.9
   %, Lymph:7.5 %, Mono:2.6 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:8.7
   mg/dL, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   CXR [**9-1**]: Improved aeration, no clear infiltrates noted today
   MICRO:
   -          Legionella negative
   -          Blood cx [**8-31**]: CPC
 Enterococcus in one bottle, [**Last Name (un) 270**] to
   vanco
   -          [**Location (un) 755**] cx: NGTD
   -
   Assessment and Plan
   32F with hx asthma who is transferred from OSH with status asthmaticus,
   admitted to the MICU for continued management.
   .
   1.  Respiratory distress, status.  Pt appears more comfortable,
   although still wheezing, moving fair amount of air.  ABG with pCO2
   stable in 40s. Elevated pCO2 concerning in asthmatic patient, will need
   close monitoring for fatiguing.
   - CTA negative from OSH
   - Continue Solumedrol 40 [**Hospital1 7**]
   - Received magnesium
   - Continuous nebs (albuterol), also on atrovent and advair
   - Advance to clears
   - f/u sputum cultures, blood cultures
   - urine legionella negative
   - Pertussis (cough, episode of post-tussive emesis, child at home with
   cough) sent
   - Will start Azithromycin in case of atypical infection given
   persistent hypoxia despite 24h of steroids/nebs
   - a-line for ABG monitoring
   - Consider heliox, NIPPV if pCO2 rises
   - If not improving consider re-imaging
   .
   2. Positive blood cx. GPC in pairs & chains, possible contaminant but
   identified as ENTEROCOCCUS, pt afebrile with leukocytosis in setting of
   steroids.
   - Started vanco, re-cultured
   - F/U repeat cx
   .
   3. Hyperglycemia. No hx Diabetes, but BS elevated. Given steroid use,
   expect BS to possibly rise.
   - RISS
   .
   4. Anxiety. Hx of high doses of valium, confirmed with pt's pharmacy.
   Given respiratory status, concering to administer benzos. Received one
   dose of 10mg overnight with improvement.
   - CIWA scale to monitor for signs of withdrawal
   - Switch to Ativan prn since shorter acting
   .
   5. Crohn's Disease. Not active x years.
   - NTD
   .
   6. Chest pain. Atypical for cardiac ischemia, lasting less than 5
   minutes and sharp. Initial EKG around time of pain was sinus with TWI
   in V2, V3, no STE. Approximately one hour later, similar but now TW
   more biphasic. Compared to admission EKG, TW changes appear different.
   - Cycle CE although low suspicion for active ischemia
   - Non-specific changes can be seen in PE, but CTA from OSH negative
   (for central PE) and clinical picture not consistent with PE.
   .
   Ppx: Heparin SQ, PPI, bowel regimen.
   .
   .
   presumed FULL CODE
   ICU Care
   Nutrition: Clears, may advance later if better and no indication that
   pt may need NIPPV or intubation
   Glycemic Control:  RISS
   Lines:
   20 Gauge - [**2114-8-31**] 09:28 AM
   Arterial Line - [**2114-8-31**] 03:24 PM
   Prophylaxis:
   DVT: Boots, SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU pending improvement

2114-09-01 10:06:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2114-8-31**] 03:24 PM
 EKG - At [**2114-9-1**] 03:52 AM
 BLOOD CULTURED - At [**2114-9-1**] 04:02 AM
   arterial and periferal
   24H ICU events: SaO2 90s on continuous nebs, solumedrol, magnesium, no
   heliox, no abx.  Blood gasses demonstrate persistent hypoxemia,
   hyperbarbia.
   Blood cultures gpc pairs and chains in [**12-6**] bottles
   330 am L sided chest pain, rapidly resolved,different than her usual
   pain, ekg obtained at  that time demonstrated new TWI V2-V4 that
   resolved, now getting ROMI.
   Allergies:
   Metronidazole
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-9-1**] 12:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-9-1**] 08:00 AM
   Other medications:
   valium 10 mg
   celexa 40 mg po daily
   Advair
   omeprazole 40 mg
   HCTZ 25 qday
   Heparin 5000 TID
   RISS
   PRed 80 q 8
   atrovent
   albuterol
   fioricet
   guafenesin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-9-1**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 96 (79 - 105) bpm
   BP: 118/66(82) {107/55(73) - 143/130(137)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 153.5 kg (admission): 153.5 kg
             Total In:
                                                                  4,709 mL
                                                                    296 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    589 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    450 mL
   Urine:
                                                                    550 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,159 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 90%
   ABG: 7.36/43/78.[**Numeric Identifier 181**]/26/-1
   PaO2 / FiO2: 158
   Physical Examination
   General: obese, well-appearing, speaking in full sentences, occasional
   cough, no accessory muscles
   HEENT: PERRL, EOMI
   NECK: supple
   CV: S1/S2 distant, R
   CHEST: distant, prolonged exp phase, insp/exp wheeze
   ABD: obese, soft, nt
   Ext: wwp, no c/c/e
   Peripheral Vascular: (Right radial pulse: 1+), (Left radial pulse: 1+),
   (Right DP pulse: 1+), (Left DP pulse: 1+)
   Skin:  cool, dry
   Neurologic: conversant, alert and oriented x 3, cn 2-12 grossly intact,
   no focal abnormalities
   Labs / Radiology
   13.2 g/dL
   303 K/uL
   189 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   10 mg/dL
   97 mEq/L
   135 mEq/L
   41.0 %
   21.3 K/uL
        [image002.jpg]
                             [**2114-8-31**]  10:31 AM
                             [**2114-8-31**]  12:30 PM
                             [**2114-8-31**]  12:42 PM
                             [**2114-8-31**]  03:50 PM
                             [**2114-8-31**]  06:38 PM
                             [**2114-8-31**]  10:08 PM
                             [**2114-9-1**]  03:27 AM
   WBC
   21.3
   Hct
   41.0
   Plt
   303
   Cr
   0.8
   0.7
   TropT
   <0.01
   TCO2
   28
   29
   28
   25
   25
   Glucose
   205
   189
   Other labs: CK / CKMB / Troponin-T:75//<0.01, Differential-Neuts:89.9
   %, Lymph:7.5 %, Mono:2.6 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:8.7
   mg/dL, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR low lung volumesd improved from [**8-31**], improved patch
   opacity RNL
   Microbiology: urine legionella neg
   blood cx gpc pairs and chains 1/2 bottles
   ECG: nsr
   Assessment and Plan
     32 yo F smoker h.o crohns, now with asthma exacerbation
   1. Asthma exacterbation:
   exam with persistent insp/exp wheeze, speaking in full sentences
    - will decrease solumedrol to 80 [**Hospital1 7**] with plan to taper to pred 60
   tomorrow if continued improvement
    - was on continuous nebs - will change to PRN nebs and monitor needs
    - given persistent cough, low grade temps, and slower improvement,
   will start azithro for empiric atypical mycobacterial coverage,
   although likely viral infection
   2. Chest pain with EKG changes: likey RH strain in setting of flare
     - PE ct was negative for central PE
    - ruling out, cont cycle enzymes and monitor ekgs
   3. + blood culture: likely contaminant, but has had lines in place
    - will cont empiric vanc coverage, await speciation
   4. Hyperglycemia:
    - cont RISS esp while on steroids
   5. Anxiety:
    - previously on high dose valium, but concern for respiratory
   depression
    - ativan as needed for anxiety
   6. Crohns: stable
   ICU Care
   Nutrition:
   Comments: had been npo for ? urgent intubation, but improving so will
   advance to clears
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-8-31**] 09:28 AM
   Arterial Line - [**2114-8-31**] 03:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: not intubated
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: full code
   Disposition : ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 192**] for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points
   32 yo female with obesity, asthma admitted with status asthmaticus with
   recent sick contact (son). Overnight she was treated with continuous
   nebs with slight improvement today. Afebrile, conversant in full
   sentences with no accessory muscle use. O2 sats 93% RA. Lungs with fair
   air movement, diffuse insp and exp wheezes. HR mildly tachycardic, no
   murmurs. Abdomen obese, soft +bs. Ext no edema.
   No worsening with status asthmaticus though she remains mildly hypoxic
   with high nebulizer requirement. Will attempt to wean down neb
   frequency as tolerated, and continue steroids. Azithromycin added for
   possible atypical infection. Plans otherwise as per above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2114-9-1**] 16:27 ------

2114-09-02 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2114-9-1**] 08:01 PM
 EKG - At [**2114-9-2**] 04:51 AM
   -          Cardiac [**Last Name (un) **] negative
   -          Advanced diet
   -          Changed to Solumedrol 40 [**Hospital1 7**]
   -          Started Azithromycin
   -          Social Work c/s requested by RN for support/coping
   -          Changed Vanco to Ampicillin for Enterococcus since sensitive
   to both
   -          8pm ABG: 7.42/40/73/27
   Allergies:
   Metronidazole
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-9-1**] 12:01 AM
   Ampicillin - [**2114-9-2**] 02:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-9-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-9-2**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 62 (62 - 101) bpm
   BP: 125/68(89) {107/53(70) - 155/90(111)} mmHg
   RR: 21 (8 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 153.5 kg (admission): 153.5 kg
             Total In:
                                                                  1,305 mL
                                                                    220 mL
   PO:
                                                                    770 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    535 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                      0 mL
   Urine:
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      5 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: 7.42/40/73.[**Numeric Identifier 218**]/29/0
   PaO2 / FiO2: 209
   Physical Examination
   Gen: NAD, occasional coughing, speaking in full sentences
   HEENT: PERRL
   Lungs: Wheezes bilaterally
   Heart: s1s2 RRR
   Abd: obese, soft, NT/ND
   Ext: wd/wp
   Labs / Radiology
   301 K/uL
   12.5 g/dL
   136 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.5 mEq/L
   11 mg/dL
   96 mEq/L
   134 mEq/L
   37.7 %
   17.1 K/uL
        [image002.jpg]
                             [**2114-8-31**]  12:30 PM
                             [**2114-8-31**]  12:42 PM
                             [**2114-8-31**]  03:50 PM
                             [**2114-8-31**]  06:38 PM
                             [**2114-8-31**]  10:08 PM
                             [**2114-9-1**]  03:27 AM
                             [**2114-9-1**]  11:05 AM
                             [**2114-9-1**]  05:42 PM
                             [**2114-9-1**]  08:00 PM
                             [**2114-9-2**]  01:59 AM
   WBC
   21.3
   17.1
   Hct
   41.0
   37.7
   Plt
   303
   301
   Cr
   0.8
   0.7
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   29
   28
   25
   25
   27
   Glucose
   [**Telephone/Fax (3) 2179**]
   Other labs: CK / CKMB / Troponin-T:77//<0.01, Differential-Neuts:89.9
   %, Lymph:7.5 %, Mono:2.6 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:8.8
   mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   CXR [**9-2**]:
   MICRO:
   -[**9-1**] Blood cx x 2: pending
   -[**8-31**]: Legionella: negative
   -[**8-31**]: Blood cx: Enterococcus
   Assessment and Plan
   32F with hx asthma who is transferred from OSH with status asthmaticus,
   admitted to the MICU for continued management.
   .
   1.  Respiratory distress, status.  Pt appears more comfortable,
   improving although still wheezing, moving fair amount of air.  ABG with
   pCO2 stable in 40s. Elevated pCO2 concerning in asthmatic patient, will
   need close monitoring for fatiguing.
   - CTA negative from OSH
   - Continue Solumedrol 40 [**Hospital1 7**]
   - Received magnesium
   - Continuous nebs (albuterol), spacing to q 4H nebs but hypoxic off
   oxygen
   - Also on atrovent and advair
   - Advance to clears
   - f/u sputum cultures, blood cultures
   - urine legionella negative
   - Pertussis (cough, episode of post-tussive emesis, child at home with
   cough) sent
   - Will start Azithromycin in case of atypical infection given
   persistent hypoxia despite 24h of steroids/nebs
   - a-line for ABG monitoring
   - Consider heliox, NIPPV if pCO2 rises
   - If not improving consider re-imaging
   .
   2. Positive blood cx. GPC in pairs & chains, possible contaminant but
   identified as ENTEROCOCCUS, pt afebrile with leukocytosis in setting of
   steroids.
   - Switched to Ampicillin, re-cultured
   - F/U repeat cx
   .
   3. Hyperglycemia. No hx Diabetes, but BS elevated. Given steroid use,
   expect BS to possibly rise.
   - RISS
   .
   4. Anxiety. Hx of high doses of valium, confirmed with pt's pharmacy.
   Given respiratory status, concerning to administer benzos. - CIWA scale
   to monitor for signs of withdrawal
   - Switch to Ativan prn since shorter acting
   .
   5. Crohn's Disease. Not active x years.
   - NTD
   .
   6. Chest pain. Atypical for cardiac ischemia, lasting less than 5
   minutes and sharp. Initial EKG around time of pain was sinus with TWI
   in V2, V3, no STE. Approximately one hour later, similar but now TW
   more biphasic. Compared to admission EKG, TW changes appear different.
   - Cycled CE although low suspicion for active ischemia: negative x 3,
   no further pain
   - Non-specific changes can be seen in PE, but CTA from OSH negative
   (for central PE) and clinical picture not consistent with PE.
   .
   Ppx: Heparin SQ, PPI, bowel regimen.
   .
   .
   presumed FULL CODE
   ICU Care
   Nutrition: Diet
   Glycemic Control:  RISS
   Lines:
   Arterial Line - [**2114-8-31**] 03:24 PM
   22 Gauge - [**2114-9-1**] 10:06 PM
   Prophylaxis:
   DVT:  boots, heparin sq
   Stress ulcer:  diet
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: Possible call-out if spaced to q 4H but still hypoxic

2114-09-02 10:36:00 Physician Attending Progress Note
Chief Complaint:
   Continues to feel anxious and dyspneic, but this is improving
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2114-9-1**] 08:01 PM ngtd
 EKG - At [**2114-9-2**] 04:51 AM no ischemia
                   History obtained from Patient
   Allergies:
   Metronidazole
   Nausea/Vomiting
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-9-1**] 12:01 AM
   Ampicillin - [**2114-9-2**] 09:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   celexa 40 qday
   advair 250/50
   omeprazole
   hctz 25
   heparin tid
   riss
   atrovent
   solumedrol 40 [**Hospital1 **]
   azithro 500
   ampicillin 1 g q6H
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-9-2**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 52 (52 - 101) bpm
   BP: 112/58(78) {107/53(70) - 155/90(111)} mmHg
   RR: 20 (8 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 153.5 kg (admission): 153.5 kg
             Total In:
                                                                  1,305 mL
                                                                    320 mL
   PO:
                                                                    770 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    535 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                      0 mL
   Urine:
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      5 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.42/40/73.[**Numeric Identifier 218**]/29/0
   PaO2 / FiO2: 209
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : improved from [**9-1**])
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   301 K/uL
   136 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.5 mEq/L
   11 mg/dL
   96 mEq/L
   134 mEq/L
   37.7 %
   17.1 K/uL
        [image002.jpg]
                             [**2114-8-31**]  12:30 PM
                             [**2114-8-31**]  12:42 PM
                             [**2114-8-31**]  03:50 PM
                             [**2114-8-31**]  06:38 PM
                             [**2114-8-31**]  10:08 PM
                             [**2114-9-1**]  03:27 AM
                             [**2114-9-1**]  11:05 AM
                             [**2114-9-1**]  05:42 PM
                             [**2114-9-1**]  08:00 PM
                             [**2114-9-2**]  01:59 AM
   WBC
   21.3
   17.1
   Hct
   41.0
   37.7
   Plt
   303
   301
   Cr
   0.8
   0.7
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   29
   28
   25
   25
   27
   Glucose
   [**Telephone/Fax (3) 2179**]
   Other labs: CK / CKMB / Troponin-T:77//<0.01, Differential-Neuts:89.9
   %, Lymph:7.5 %, Mono:2.6 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:8.8
   mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR with low lung volumes, clear diaphragmaitic borders, no
   infiltrate
   Microbiology: blood cx x2 ngtd
   legionella negative
   blood - pan S enterococcus x 1
   pertussis p
   Assessment and Plan
   37 yo F with Crohn's s/p resection,.asthma presents with severe asthma
   exacerbation.
   1. Asthma:
    - improving respiratory status but still significantly wheezy
    - hypoxia on movement
    - likely hyperreactive airways with obesity hypoventilation +/- sleep
   apnea
    - will decrease GC to prednisone 60 qday
    - cont alb/atrovent nebs q 4 hr
    - supplemental O2 as needed
    - 5 d azithro
    - f/u sputum, pertussis cultures
    - will d/c aline today
   2. Enterococcus blood culture: atypical for contaminant
    - cont ampicillin
    - f/u repeat blood cx
   3. Hyperglycemia:
    - cont RISS, regular diet
   4. Anxiety:
    - started ativan for baseline benzo-dependent anxiety with some
   improvmeent
   5. Chest Pain:
    - Ruled out MI, likely GERD, worsened w steroids
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-8-31**] 03:24 PM
   22 Gauge - [**2114-9-1**] 10:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin(PPI)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes